US04686217
3-Methyl 5-(1-methylethyl) 4-(2-chloro-3-nitrophenyl)-2-(fluoromethyl)-1,4-dihydro-6-methyl-3,5-pyridinedicarboxylate
2-Chloro-3-nitrobenzaldehyde (1.38 g, 7.5 mmoles), methyl 4-fluoro-3-oxobutanoate (1.0 g, 7.5 mmoles) and 1-methylethyl 3-amino-2-butenoate (1.06 g, 7.5 mmoles) were heated at 90° for 2.5 hours. The reaction mixture was chromatographed on silica eluting with petroleum ether (60°-80°)/ethyl acetate mixtures. The title compound (1.35 g) was obtained after crystallisation from petroleum ether (60°-80°)/2-propanol. mp 156°-7°.

reactant | 2-Chloro-3-nitrobenzaldehyde | 7.5 mmoles, 1.38 g | ClC1=C(C=O)C=CC=C1[N+](=O)[O-] | C7H4ClNO3
reactant | methyl 4-fluoro-3-oxobutanoate | 7.5 mmoles, 1.0 g | FCC(CC(=O)OC)=O | C5H7FO3
reactant | 1-methylethyl 3-amino-2-butenoate | 7.5 mmoles, 1.06 g | NC(=CC(=O)OC(C)C)C | C7H13NO2
product | 3-Methyl 5-(1-methylethyl) 4-(2-chloro-3-nitrophenyl)-2-(fluoromethyl)-1,4-dihydro-6-methyl-3,5-pyridinedicarboxylate | 1.35 g | ClC1=C(C=CC=C1[N+](=O)[O-])C1C(=C(NC(=C1C(=O)OC(C)C)C)CF)C(=O)OC | C19H20ClFN2O6
